US08648191B2
cis/trans-(S)-3-{-4-[4-(3-chloro-2-fluoro-phenylamino)-7-methoxy-quinazolin-6-yloxy]-cyclohexyl}-4-methyl-piperazin-2-one
A mixture of 700 mg methyl [(2-amino-ethyl)-methyl-amino]-{4-[4-(3-chloro-2-fluoro-phenylamino)-7-methoxy-quinazolin-6-yloxy]-cyclohexyl}-acetate, 7 ml of methanol and 0.65 ml 4N sodium hydroxide solution is stirred for three hours at ambient temperature. Then the reaction mixture is evaporated down and extracted with ethyl acetate. The organic phase is dried on magnesium sulphate and evaporated down. The flask residue is purified by chromatography through a silica gel column with methylene chloride/methanol/conc. ammonia (98/2/0.1 auf 8/2/0.1) as eluant. The crude product is stirred with diisopropylether, suction filtered and dried.

reactant | methyl [(2-amino-ethyl)-methyl-amino]-{4-[4-(3-chloro-2-fluoro-phenylamino)-7-methoxy-quinazolin-6-yloxy]-cyclohexyl}-acetate | 700 mg | NCCN(C)C(C(=O)OC)C1CCC(CC1)OC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C(=CC=C1)Cl)F | C27H33ClFN5O4
reactant | sodium hydroxide | 4N, 0.65 ml | [OH-].[Na+]
solvent | methanol | 7 ml | CO | CH4O
product | trans-(S)-3-{-4-[4-(3-chloro-2-fluoro-phenylamino)-7-methoxy-quinazolin-6-yloxy]-cyclohexyl}-4-methyl-piperazin-2-one | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)O[C@@H]1CC[C@H](CC1)[C@H]1C(NCCN1C)=O)OC)F | C26H29ClFN5O3
